Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
L long finger FTS
 
Major Surgical or Invasive Procedure:
I&D L long finger.

 
History of Present Illness:
___ is a ___ year old female RHD who presents with
worsening swelling and pain of her L middle finger concerning 
for
FTS. Patient was bitten by her dog at home about 2 weeks ago and
suffered a small bite wound over the dorsal aspect of her MF MCP
joint. She initially had no symptoms but slowly developed
gradually worsening pain and swelling, which acutely worsened
over the past day or two. She denies fevers/chills. Her affected
digit is swollen and she has difficulty moving it due to pain 
and
swelling.
 
Past Medical History:
none
 
Social History:
___
Family History:
none
 
Physical Exam:
Preop:
Gen: NAD, A&Ox3, lying on stretcher.
HEENT: Normocephalic.
Cardio: RRR
Pulm: Nonlabored breathing on RA
LUE: L middle finger grossly edematous with tenderness to
palpation over her flexor sheath, (+) pain with passive
extension. Small bite wound over dorsal aspect of hand overlying
middle finger MCPJ with overlying eschar, no purulence or
surrounding erythema. All digits warm well perfused with 
adequate
capillary refill. 
Sensation intact to light touch intact throughout median, 
radial,
and ulnar nerve distributions. 
Palpable radial pulse. 

Postop:
- incision c/d/I. Packing removed, no pus.
- SILT in r/u/m
- Fires EPL, FPL, DIO
- 2+ radial pulse
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have left long finger flexor tenosynovitis and was admitted 
to the orthopedic surgery service. The patient was taken to the 
operating room on ___ for irrigation and debridement of 
the left long finger (Dr. ___, which the patient tolerated 
well. For full details of the procedure please see the 
separately dictated operative report. The patient was taken from 
the OR to the PACU in stable condition and after satisfactory 
recovery from anesthesia was transferred to the floor. The 
patient was initially given IV fluids and IV pain medications, 
and progressed to a regular diet and oral medications by POD#1. 
The patient was given ___ antibiotics and 
anticoagulation per routine. The patient's home medications were 
continued throughout this hospitalization. The patient worked 
with ___ who determined that discharge to home was appropriate. 
The ___ hospital course was otherwise unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
nonweightbearing in the left upper extremity, and will be 
discharged on her home aspirin 81 mg for DVT prophylaxis. The 
patient will follow up with Dr. ___ routine. A thorough 
discussion was had with the patient regarding the diagnosis and 
expected post-discharge course including reasons to call the 
office or return to the hospital, and all questions were 
answered. The patient was also given written instructions 
concerning precautionary instructions and the appropriate 
follow-up care. The patient expressed readiness for discharge.
 
Medications on Admission:
Albuterol
Amitriptyline
Fluticasone
Simvastatin
tiotropium
Trazodone
Aspirin 81 mg
Melatonin
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H hand infection 
Duration: 10 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every twelve (12) hours Disp #*20 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID  
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth q6hr prn Disp #*10 
Tablet Refills:*0 
5.  Senna 8.6 mg PO BID:PRN constipation  
6.  Aspirin 81 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
L long finger FTS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
NWB LUE.  No splint. Elevate when possible.
TID soapy water soaks.
Kerlix dressing. No packing.
Augmentin antibiotics x 10 days.
F/u in Fellows hand clinic in 1 week.  Please call to make this 
appointment.
 
Followup Instructions:
___